US08975400B2
4-chloro-3-(trifluoromethyl)phenyl 4-ethenylphenyl ether
To a suspension of methyl(triphenyl)phosphonium bromide (5.56 g, 15.57 mmol) in anhydrous tetrahydrofuran (THF) (50 mL) was added BuLi (9.5 ml, 15.20 mmol) dropwise at 0° C. The reaction mixture was turned to clear and stirred for 15 min at 0° C., then a solution of -{[4-chloro-3-(trifluoromethyl)phenyl]oxy}benzaldehyde (4.07 g, 13.54 mmol) in THF (10 mL) was added. The reaction mixture was warmed to rt and stirred for 1 h, quenched by sat. NH4Cl, and then concentrated. The residue was dissolved in ethyl acetate (100 mL), washed with water, and brine, dried over anhydrous sodium sulfate, concentrated. Purification via ISCO afforded the title compound (3.0 g).

reactant | BuLi | 15.20 mmol, 9.5 ml | [Li]CCCC
reactant | {[4-chloro-3-(trifluoromethyl)phenyl]oxy}benzaldehyde | 13.54 mmol, 4.07 g | ClC1=C(C=C(C=C1)OC1=C(C=O)C=CC=C1)C(F)(F)F | C14H8ClF3O2
catalyst | methyl(triphenyl)phosphonium bromide | 15.57 mmol, 5.56 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | O1CCCC1 | C4H8O
product | 4-chloro-3-(trifluoromethyl)phenyl 4-ethenylphenyl ether | 3.0 g | C(=C)C1=CC=C(C=C1)OC1=CC(=C(C=C1)Cl)C(F)(F)F | C15H10ClF3O
